US04810708
Reflux a mixture of 4-(3-chlorophenyl)-2,3-dihydrothieno[3,2-b][1,8]naphthyridin-9(9H)-one (0.11 g), ethanol (100 ml), and commercial aged Raney nickel (from 5 ml of an aqueous suspension) for 10 hours under nitrogen. Filter the resulting mixture, evaporate the solvent, and chromatograph the residue over silica gel. Elute with CHCl3 to give 4-(3-chlorophenyl)-thieno[3,2-b][1,8]naphthyridin-9(4H)-one, m.p. 264°-267° C. from CHCl3 hexane.

reactant | 4-(3-chlorophenyl)-2,3-dihydrothieno[3,2-b][1,8]naphthyridin-9(9H)-one | 0.11 g | ClC=1C=C(C=CC1)N1C2=C(C(C=3C=CC=NC13)=O)SCC2 | C16H11ClN2OS
catalyst | Raney nickel | [Ni] | Ni
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-(3-chlorophenyl)-thieno[3,2-b][1,8]naphthyridin-9(4H)-one | ClC=1C=C(C=CC1)N1C2=C(C(C=3C=CC=NC13)=O)SC=C2 | C16H9ClN2OS
